US07989633B2
n-Propyl 5-acetyl-4-(5-chloro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydro-pyridine-3-carboxylate
40 mg (0.18 mmol) of 5-chloro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde are dissolved with 31 mg (0.18 mmol) of 2,4-pentanedione, 25 mg (0.18 mmol) of n-propyl 3-aminocrotonate and 11 mg (0.18 mmol) of acetic acid in 2 ml of 2-propanol and heated under reflux under argon for 10 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. 33 mg (42% of theory) of the title compound are obtained as a yellow solid.

reactant | 5-chloro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.18 mmol, 40 mg | ClC1=C2C(C=C(OC2=C(C=C1)C=O)C)=O | C11H7ClO3
reactant | 2,4-pentanedione | 0.18 mmol, 31 mg | CC(CC(C)=O)=O | C5H8O2
reactant | n-propyl 3-aminocrotonate | 0.18 mmol, 25 mg | N\C(=C/C(=O)OCCC)\C | C7H13NO2
reactant | acetic acid | 0.18 mmol, 11 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | n-Propyl 5-acetyl-4-(5-chloro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydro-pyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OCCC)C=1C=CC(=C2C(C=C(OC12)C)=O)Cl | C23H24ClNO5
